US04268510
2-Amino-3-methylbenzyl alcohol (1.7 g.) and anhydrous chloral (2.4 ml.) were mixed for 10 minutes with external ice-cooling, and the mixture was left to stand for 1/2 hour. The mixture was then chromatographed on silica, and elution with diethyl ether/petroleum ether (b.p. 60°-80° C.), 7:3 by volume, gave 1,2-dihydro-8-methyl-2-trichloromethyl-4H-benzo[d]-[1,3]-oxazine, which was crystallised from aqueous ethanol, m.p. 69°-70° C.

reactant | 2-Amino-3-methylbenzyl alcohol | 1.7 g | NC1=C(CO)C=CC=C1C | C8H11NO
reactant | chloral | 2.4 ml | O=CC(Cl)(Cl)Cl | C2HCl3O
product | 1,2-dihydro-8-methyl-2-trichloromethyl-4H-benzo[d]-[1,3]-oxazine | CC1=CC=CC2=C1NC(OC2)C(Cl)(Cl)Cl | C10H10Cl3NO
